US07101903B2
[1-(4-Methylbenzyl)-5-(3-methylphenyl)-1H-indol-2-yl]methanol
The title compound was prepared from ethyl 1-(4-methylbenzyl)-5-(3-methylphenyl)-1H-indole-2-Carboxylate and lithium aluminum in substantially the same manner, as described in step 3 of Example 1. The product was obtained as a white solid. Mass spectrum (ESI, [M+H]+) m/z 342. 1H NMR (400 MHz, DMSO-d6)δ 7.77 (s, 1H), 7.46 (s, 1H), 7.42 (d, 1H, J=7.79 Hz), 7.37 (d, 1H, J=8.55 Hz), 7.33 (d, 1H, J=8.56 Hz), 7.31 (d, 1H, J=7.02 Hz), 7.29 (d, 1H, J=7.48 Hz), 7.10–7.07 (m, 4H), 6.96 (d, 2H, J=7.94 Hz), 6.48 (s, 1H), 5.54 (s, 2H), 5.33 (s, 1H), 4.60 (s, 2H), 2.36 (s, 3H), and 2.23 ppm (s, 3H).

reactant | ethyl 1-(4-methylbenzyl)-5-(3-methylphenyl)-1H-indole-2-Carboxylate | CC1=CC=C(CN2C(=CC3=CC(=CC=C23)C2=CC(=CC=C2)C)C(=O)OCC)C=C1 | C26H25NO2
reactant | lithium aluminum | [Al].[Li]
product | [1-(4-Methylbenzyl)-5-(3-methylphenyl)-1H-indol-2-yl]methanol | CC1=CC=C(CN2C(=CC3=CC(=CC=C23)C2=CC(=CC=C2)C)CO)C=C1 | C24H23NO
